US08227506B2
Step 1. Synthesis of 2-(3-cyanophenoxy)ethyl acetate.
3-Cyanophenol (10.1 g, 84.8 mmol) and potassium carbonate (19.5 g, 141 mmol) were suspended in acetone (280 ml), 2-bromoethyl acetate (7.8 ml, 70.7 mmol) was added, and the mixture was stirred at 50° C. for 8 hours. Sodium iodide (1.06 g, 7.07 mmol) was added to the reaction mixture, and the mixture was heated under reflux for two nights and concentrated under reduced pressure. The residue was diluted with ethyl acetate, and the mixture was washed with 1N sodium hydroxide, 1N hydrochloric acid, and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give the title compound without purification.

reactant | 3-Cyanophenol | 84.8 mmol, 10.1 g | C(#N)C=1C=C(C=CC1)O | C7H5NO
reactant | potassium carbonate | 141 mmol, 19.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethyl acetate | 70.7 mmol, 7.8 ml | C(C)(=O)OCCBr | C4H7BrO2
reactant | Sodium iodide | 7.07 mmol, 1.06 g | [I-].[Na+]
solvent | acetone | 280 ml | CC(=O)C | C3H6O
product | 2-(3-cyanophenoxy)ethyl acetate | C(C)(=O)OCCOC1=CC(=CC=C1)C#N | C11H11NO3
